US06281227B1
C. N-(7-Methyl-1-oxo-1,2-dihydro-isoquinolin-6-yl)-acetamide
To a solution of diphenyl ether (250 mL) and tributylamine (11.9 mL, 49.9 mmol) at 220-240° C. is added a slurry of 3-(3-acetylamino-4-methyl-phenyl)-acryloyl azide (12.2 g, 49.9 mmol) in diphenyl ether. After 2 hours, the yellow solution is cooled to room temperature and poured over hexane (800 mL). A brown solid precipitates out and the title product (3.56 g, 16.5 mmol) is obtained as a light yellow solid by recrystallization from DMF/MeOH.

reactant | tributylamine | 49.9 mmol, 11.9 mL | C(CCC)N(CCCC)CCCC | C12H27N
reactant | 3-(3-acetylamino-4-methyl-phenyl)-acryloyl azide | 49.9 mmol, 12.2 g | C(C)(=O)NC=1C=C(C=CC1C)C=CC(=O)N=[N+]=[N-] | C12H12N4O2
reactant | hexane | 800 mL | CCCCCC | C6H14
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | diphenyl ether | 250 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | N-(7-Methyl-1-oxo-1,2-dihydro-isoquinolin-6-yl)-acetamide | 16.5 mmol, 3.56 g | CC1=C(C=C2C=CNC(C2=C1)=O)NC(C)=O | C12H12N2O2
